US04073921
phenylmercuric acetate
N-ethylmercuri-1,2,3,6tetrahydro-3,6-endomethano-3,4,5,6,7,7-hexachlorophthalimide, phenylmercuric monoethanolammonium lactate, nickel-containing compounds and calcium cyanamide.

reactant | N-ethylmercuri-1,2,3,6tetrahydro-3,6-endomethano-3,4,5,6,7,7-hexachlorophthalimide | CC[Hg]N1C(=O)C2C(C1=O)C3(C(=C(C2(C3(Cl)Cl)Cl)Cl)Cl)Cl
reactant | phenylmercuric monoethanolammonium lactate | CC(C(=O)[O-])O.CC(C(=O)[O-])O.C1=CC=C(C=C1)[Hg+].C(CO)[NH3+]
reactant | calcium cyanamide | N#CN.[Ca]
catalyst | nickel | [Ni] | Ni
product | phenylmercuric acetate | CC(=O)O[Hg]C1=CC=CC=C1 | InChI=1S/C6H5.C2H4O2.Hg/c1-2-4-6-5-3-1;1-2(3)4;/h1-5H;1H3,(H,3,4);/q;;+1/p-1
